US06429214B1
[6-(3-Guanidino-propoxy)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid
A solution of [6-(3-Guanidino-propoxy)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid ethyl ester (0.76 g, 1.6 mmol) in ethanol (7 mL) was treated with 0.5 N aqueous NaOH and heated at reflux for 3 h. The resulting precipitate was cooled to room temperature, treated with trifluoroacetic acid (1.5 mL) and the solution thus formed concentrated in vacuo to yield a clear, colorless oil. Purification by reverse phase HPLC gave the title compound (0.38 g, 55% yield) as a fluffy white solid.

reactant | [6-(3-Guanidino-propoxy)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid ethyl ester | 1.6 mmol, 0.76 g | C(C)OC(CC1C(NC2=CC=C(C=C2C1)OCCCNC(=N)N)=O)=O | C17H24N4O4
reactant | NaOH | 0.5 N | [OH-].[Na+]
reactant | trifluoroacetic acid | 1.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | [6-(3-Guanidino-propoxy)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid | 0.38 g, 55% yield | N(C(=N)N)CCCOC=1C=C2CC(C(NC2=CC1)=O)CC(=O)O | C15H20N4O4
